US06699995B1
Methyl 2-(4-(4-methoxyphenyl)-2-oxo-4-oxazolin-5-yl)propionate
4-(4-Methoxyphenyl)-2-oxo-4-oxazoline (1.00 g), methyl acrylate (0.94 mL) was dissolved in toluene (20 mL) and boron trifluoride etherate (1.31 mL) was added. The obtained mixture was heated to 90° C., and after stirring for 2 h, the solvent was concentrated under reduced pressure to give an oily substance. The obtained oily substance was subjected to silica gel column chromatography and eluted with n-hexane-ethyl acetate (1:1). The solvent was evaporated and the obtained oil was crystallized from ethanol. Isopropyl ether (10 mL) was added and the mixture was stirred at not higher than 5° C. for 1 h. The crystals were collected by filtration and washed with isopropyl ether to give the title compound (0.30 g; yield 20.7%) as gray-white crystals.

reactant | 4-(4-Methoxyphenyl)-2-oxo-4-oxazoline | 1.00 g | COC1=CC=C(C=C1)C=1NC(OC1)=O | C10H9NO3
reactant | methyl acrylate | 0.94 mL | C(C=C)(=O)OC | C4H6O2
reactant | boron trifluoride etherate | 1.31 mL | B(F)(F)F.CCOCC
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 2-(4-(4-methoxyphenyl)-2-oxo-4-oxazolin-5-yl)propionate | 0.30 g, yield 20.7% | COC1=CC=C(C=C1)C=1NC(OC1C(C(=O)OC)C)=O | C14H15NO5
